US04608375
A mixture of 2,4-bis(trimethylsiloxy)-quinazoline (9.14 g) and 1,3-dibromopropane (30 g) was stirred for 2 hours at 130°-140° C. The reaction mixture was cooled at ambient temperature and a mixture of ice-water and saturated sodium bicarbonate aqueous solution was added to the reaction mixture and then the mixture was stirred vigorously to give precipitates. After the mixture was suspended with chloroform, the precipitates were collected by filtration. The precipitates were washed with water and with chloroform respectively and then dried to give 1-(3-bromopropyl)-2,4(1H,3H)-quinazolinedione (2.12 g) as a crystal, which was used in the next step without purification.

reactant | 2,4-bis(trimethylsiloxy)-quinazoline | 9.14 g | C[Si](OC1=NC2=CC=CC=C2C(=N1)O[Si](C)(C)C)(C)C | C14H22N2O2Si2
reactant | 1,3-dibromopropane | 30 g | BrCCCBr | C3H6Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(3-bromopropyl)-2,4(1H,3H)-quinazolinedione | 2.12 g | BrCCCN1C(NC(C2=CC=CC=C12)=O)=O | C11H11BrN2O2
